US05322835
Preparation of 1-methyl-3-[7-fluoro-4-propargyl-2H-1,4-bezoxazin-3(4H)-on-6-yl]-5-isopropylidenehydantoin (Compound No. 32)
3-[7-fluoro-4-propargyl-2H-1,4-bezoxazin-3(4H)-on-6-yl]-5-isopropylidenehydantoin (1.2 g), potassium carbonate (3.0 g) and iodomethane (3.0 g) were dissolved in N,N-dimethylformamide (30 ml), followed by heating at 70° C. for 6 hours. The reaction mixture was allowed to cool, combined with water and extracted with ethyl acetate. The organic layer was purified by silica gel column chromatography using a mixture of toluene and ethyl acetate as the eluent to give Compound No. 32 (1.1 g).

reactant | 3-[7-fluoro-4-propargyl-2H-1,4-bezoxazin-3(4H)-on-6-yl]-5-isopropylidenehydantoin | 1.2 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(NC(C1=O)=C(C)C)=O | C17H14FN3O4
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3.0 g | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-[7-fluoro-4-propargyl-2H-1,4-bezoxazin-3(4H)-on-6-yl]-5-isopropylidenehydantoin | CN1C(=O)N(C(=O)C1=C(C)C)C=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F | C18H16FN3O4
